datasets/10k_Mayr_OG.csv
SMILES Labelled
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.CO[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([S:10][C:20]([C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:72]=[CH:73]1 10=20
"CC[O:12][CH:11]=[CH2:10].COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1>>CC[O+:12]=[CH:11][CH2:10][CH:20]([C:21](C[N+]1=CC=C(OC)C=C1)=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][P:61]([CH:10]=[C:11]([O-:12])[O:93]CC)(=[O:62])[O:82]CC.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>CC[O:72][P:61]([CH:10]([C:11](=[O:12])[O:93]CC)[C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33])(=[O:62])[O:82]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:63]([NH:12][C:11](C1=CC=CC=C1)=[CH2:10])=[O:64]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C:11](C1=CC=CC=C1)=[NH+:12][C:63](C)=[O:64])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:62][C:11]1=[CH:10]CCC[N:12]21.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:22]1=[C:21]([CH:20]([CH:10]2CCC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[CH:20]([CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[Si:11](C)([H:10])[O:62][Si:63](C)(C)C>>C[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23].C[Si+:11](C)[O:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]23[O:62]CC(C)(C[O:72]2)C[O:82]3)O1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC12C[O:62][B:11]([O:72]C1)[O:82]C2.CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10]2=CC=C(C)O2)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1C[O:12][CH:11]=[CH:10]1.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([CH:10]2CC[O+:12]=[CH:11]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CCC[NH:10]2)C=C1.CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCC[C@H]2C(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.C[NH:10]C>>C[NH+:10](C)[CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2 10=20
"C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>C[C:10]([CH:20](C1=CC=CC=C1)[CH-:21][S:32](F)(=[O:33])=[O:34])([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1 10=20;20,21=21"
"C[C:72]1=[CH:71][N-:10][CH:61]=[N:62]1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:72]1=[CH:71][N:10]([CH:20]([CH:21]=[CH:22][N:23]2C3=C(C=CC=C3)CC2C(=O)[O-])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:61]=[N:62]1 10=20;20,21=21,22;22,23=23"
